US08420655B2
5-{1-tert-Butyl-2-[2-(1H-pyrazol-4-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (150 mg, 0.58 mmol) in DMF (5 mL) is added 2-(1H-pyrazol-4-yl)-benzaldehyde (100 mg, 0.58 mmol) at room temperature. Oxone (360 mg, 0.58 mmol) in H2O (1 mL) is added and the reaction is stirred at the same temperature for 3 hours. The reaction is poured into water (75 mL) and sodium thiosulfate (sat., 15 mL). The product is extracted into EtOAc (3×) and the combined organics are then dried (MgSO4), filtered, and concentrated. Purification via flash chromatography (12 g silica gel, 0-10% MeOH/CH2Cl2) gives the title compound (25 mg, 10%). LCMS (ESMS): m/z 410.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.58 mmol, 150 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 2-(1H-pyrazol-4-yl)-benzaldehyde | 0.58 mmol, 100 mg | N1N=CC(=C1)C1=C(C=O)C=CC=C1 | C10H8N2O
reactant | Oxone | 0.58 mmol, 360 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 15 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | 5-{1-tert-Butyl-2-[2-(1H-pyrazol-4-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 25 mg, 10% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C=2C=NNC2 | C24H23N7
